US07297709B2
N-(4-bromo-2-fluorophenyl)-N′-(3-methylphenyl)urea
A 0° C. solution of 4-bromo-2-fluoroaniline (1 g, 5.26 mmol) in dichloromethane (10 mL) was treated dropwise with 1-isocyanato-3-methylbenzene (0.71 mL, 5.26 mmol), warmed to room temperature, stirred for 18 hours, and filtered. The filter cake was washed with dichloromethane and dried to provide 0.62 g of the desired product. MS (ESI(−)) m/e 321 (M−H)−.

reactant | 4-bromo-2-fluoroaniline | 5.26 mmol, 1 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 1-isocyanato-3-methylbenzene | 5.26 mmol, 0.71 mL | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(4-bromo-2-fluorophenyl)-N′-(3-methylphenyl)urea | 0.62 g | BrC1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)C)F | C14H12BrFN2O
